US07893056B2
To a solution of (2R,5R)-2,5-dimethyl-1-(phenylmethyl)piperazine (prepared according to J. Med. Chem. 2006, 49, 716-726, utilizing N-Boc-D-alanine in place of N-Boc-L-alanine) (667 mg, 3.26 mmol) in dichloromethane (25 mL) at 0° C. was added formaldehyde (0.367 mL, 37% water solution, 4.89 mmol) followed by sodium triacetoxyborohydride (900 mg, 4.24 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2 h before being diluted with dichloromethane and washed with 1N NaOH solution. The organics were washed with brine, dried (MgSO4) and evaporated to yield (2R,5R)-1,2,5-trimethyl-4-(phenylmethyl)piperazine (680 mg, 96%). LCMS: (M+H)+: 219.1.

reactant | (2R,5R)-2,5-dimethyl-1-(phenylmethyl)piperazine | 3.26 mmol, 667 mg | C[C@H]1N(C[C@H](NC1)C)CC1=CC=CC=C1 | C13H20N2
reactant | formaldehyde | 4.89 mmol, 0.367 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 4.24 mmol, 900 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (2R,5R)-1,2,5-trimethyl-4-(phenylmethyl)piperazine | 680 mg, 96% | CN1[C@@H](CN([C@@H](C1)C)CC1=CC=CC=C1)C | C14H22N2
